US08633173B2
To a round bottom flask was added palladium acetate (0.49 g, 2.2 mmol), triphenylphosphine (2.38 g, 9.06 mmol) and 1,4-dioxane (40 mL). The mixture was stirred for 15 minutes under an atmosphere of nitrogen until a bright yellow suspension resulted. 1-Bromo-3-nitro-benzene (3.0 g, 15 mmol), 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (5.0 g, 16 mmol) and 1.50 M of sodium carbonate in water (24.5 mL, 36.8 mmol) were added. The mixture was stirred and heated at 80° C. for 24 hours. The mixture was cooled to room temperature and the volatiles were evaporated under reduced pressure. To the residue was added water (100 mL) then extracted with dichloromethane (3×50 mL). The combined organic layers were washed with water (2×50 mL) and saturated aqueous sodium chloride (50 mL), dried over magnesium sulfate, filtered and evaporated. The residue was purified via chromatography using an ISCO automated purification apparatus (silica gel column 80 g 5%→25% ethyl acetate:hexane solvent gradient). 4-(3-Nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was isolated as a yellow oil (3.95 g, 88%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.23 (s, 1H), 8.11 (d, J=8.1 Hz, 1H), 7.69 (d, J=7.7 Hz, 1H), 7.51 (t, J=7.8 Hz, 1H), 6.20 (br s, 1H), 4.12 (s, 2H), 3.70-3.65 (m, 2H), 2.56 (s, 2H), 1.50 (s, 9H).

reactant | triphenylphosphine | 9.06 mmol, 2.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-Bromo-3-nitro-benzene | 15 mmol, 3.0 g | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 16 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 36.8 mmol, 24.5 mL | O | H2O
catalyst | palladium acetate | 2.2 mmol, 0.49 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 4-(3-Nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O4
